US05484689
Phenyglyoxal monohydrate (200 mg, 1.31 mM) and diphenylether (0.4 ml, 2.62 mM) were dissolved in dichloroethane (3 ml), titanium tetrachloride (0.07 ml, 0.66 mM) was added, and reacted at room temperature for 1 hour. Using the same procedure as in Example 1, 4'-phenoxybenzoin was obtained as crystal (331.2 mg, 80.7% yield).

reactant | Phenyglyoxal monohydrate | 1.31 mM, 200 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | diphenylether | 2.62 mM, 0.4 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | dichloroethane | 3 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 0.66 mM, 0.07 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4'-phenoxybenzoin | O(C1=CC=CC=C1)C1=CC=C(C(C(C2=CC=CC=C2)=O)O)C=C1 | C20H16O3
